* RF4E080GN NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2013/08/26
******************D G S
.SUBCKT RF4E080GN 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 2.10m
D2       22 11 DDG
R2        2 22 11.5
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=171.06E-6
+ RS=10.000E-3
+ RD=0
+ VTO=2.2726
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=239p
+ CGDO=16p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.8
+ ETA=0.001
+ KAPPA=0
+ NFS=22G
.MODEL DDS D
+ IS=2.2906E-12
+ N=1.0265
+ RS=2.1929E-3
+ IKF=1.6759
+ CJO=282.00E-12
+ M=.45882
+ VJ=.63842
+ BV=30
+ TT=13.5n
.MODEL DDG D
+ CJO=62.546E-12
+ M=.6816
+ VJ=.7719
+ N=10000
+ FC=-0.3
.MODEL RTH RES
+ TC1=0.03
+ TC2=0
.ENDS RF4E080GN
